*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/1.00e+01[uF]/4[V]
* Murata P/N :GRM155R60G106ME15
* Property : C = 1.00e+01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R60G106ME15 Port1 Port2
C01 Port1 N01 7.77e-06
R01 Port1 N01 5.00e+06
L02 N01 N02 1.24e-10
R03 N02 N03 4.50e-03
C04 N03 N04 4.75e-04
R04 N03 N04 8.46e+00
C05 N04 N05 5.84e-04
R05 N04 N05 7.86e-01
C06 N05 N06 5.95e-04
R06 N05 N06 9.76e-02
C07 N06 N07 5.45e-04
R07 N06 N07 1.17e-02
C08 N07 N08 4.68e-04
R08 N07 N08 1.37e-03
L09 N08 N09 3.07e-11
R09 N08 N09 1.45e-01
L10 N09 N10 6.42e-11
R10 N09 N10 3.25e-02
L11 N10 N11 2.40e-10
R11 N10 N11 1.46e-02
C12 N11 N12 1.43e-05
L12 N11 N12 6.18e-11
R12 N11 N12 1.50e-03
C13 N12 N13 7.03e-05
L13 N12 N13 7.75e-12
R13 N12 N13 8.08e-04
C14 N13 Port2 7.75e-12
L14 N13 Port2 3.49e-11
R14 N13 Port2 1.12e+01
.ENDS GRM155R60G106ME15
